US06197963B1
L-glucal [(−)-IV-14]
Triacetate (+)-IV-13 (2.61 g, 9.6 mmol) in methanol (65 mL) was added sodium methoxide (200 μL, 5.4 M in methanol) and the reaction mixture stirred 2 h, concentrated in vacuo and purified directly via flash chromatography (10% methanol/dichloromethane) to give (−)-IV-14 (1.36 g, 97% yield) as a clear oil: [α]D25 −30.7° (c 1.33, MeOH); IR (CHCl3) 3750-3200 (br s), 3010 (m), 1730 (w), 1220 (s), 1045 (s) cm−1; 1H NMR (500 MHz, CD3OD) δ 6.33 (dd, J=6.0, 1.7 Hz, 1H), 4.66 (dd, J=6.1, 2.4 Hz, 1H), 4.10 (dt, J=7.1, 2.0 Hz, 1H), 3.86 (dd, J=12.0, 2.6 Hz, 1H), 3.77 (dd, J=12.0, 5.4 Hz, 1H), 3.71 (ddd, J=9.6, 5.4, 2.5 Hz, 1H), 3.56 (dd, J=6.0, 1.7 Hz, 1H); 13C NMR (125 MHz, CD3OD) δ 144.9, 104.5, 80.3, 70.9, 70.5, 62.2; high resolution mass spectrum (Cl, NH3) m/z 164.0927 [(M+NH4)+; calcd for C6H10O4: 164.0923].

reactant | Triacetate | 9.6 mmol, 2.61 g | CC(=O)CC(=O)CC(=O)O | C6H8O4
reactant | sodium methoxide | 5.4 M, 200 μL | C[O-].[Na+]
reactant | CHCl3 | C(Cl)(Cl)Cl | CHCl3
reactant | NH3 | N | H3N
reactant | methanol | 65 mL | CO | CH4O
product | L-glucal | 97% yield | O1C=C[C@H](O)[C@@H](O)[C@@H]1CO | C6H10O4
